US07659421B2
Step 2: Preparation of Methyl 4-bromo-3-propylbenzoate
In a 6-liter reactor equipped with a condenser, a central mechanical stirrer, a thermometer and a dropping funnel, introduce under nitrogen 141 g (0.46 mol) of methyl 4-bromo-3-bromomethylbenzoate, 4 liters of tetrahydrofuran and 8.9 g (0.045 mol) of copper (I) iodide. Cool the mixture to −40° C. using a bath of acetonitrile and dry ice. Add 168 cm3 of a 3M solution of ethylmagnesium bromide in diethyl ether and then allow the reaction temperature to increase to 0° C. After two hours of reaction hydrolyze the reaction mixture with 1 liter of 2.5M ammonium chloride solution. Separate the phases and extract the aqueous phase with 0.7 liter of methylene chloride. Combine the organic phases and evaporate the solvents. Pour heptane onto the product obtained and filter off the insoluble product which has formed. Evaporate the heptane and purify the resulting product by chromatography on silica gel (heptane/ethyl acetate=95/5). This gives 51 g of methyl 4-bromo-3-propylbenzoate in the form of colorless oil.

reactant | methyl 4-bromo-3-bromomethylbenzoate | BrC1=C(C=C(C(=O)OC)C=C1)CBr | C9H8Br2O2
reactant | dry ice | C(=O)=O | CO2
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | ammonium chloride | 2.5M, 1 liter | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | copper (I) iodide | 0.045 mol, 8.9 g | [Cu]I
solvent | acetonitrile | C(C)#N | C2H3N
solvent | tetrahydrofuran | 4 liters | O1CCCC1 | C4H8O
product | Methyl 4-bromo-3-propylbenzoate | BrC1=C(C=C(C(=O)OC)C=C1)CCC | C11H13BrO2
